US07253180B2
A 1M solution of TBAF in THF (4 ml) was added to 5-methoxy-8-triisopropylsilanyloxy-quinoline-6,7-dicarboxylic acid dimethyl ester (0.85 g, 1.9 mmol) in 20 ml dry THF. The reaction was stirred at rt for 1 h, at which time the reaction mixture was concentrated and the residue dissolved in 100 mL diethyl ether and washed with 25 mL 1N HCl, followed by 25 mL of saturated aq. NaCl. The organic layer was concentrated and the residue was dissolved in 40 mL dichloroethane. Diphenyldiazomethane (0.7 g, 3.8 mmol) was added and the reaction temperature was raised to 70° C. for 24 h. The reaction mixture was concentrated and the residue chromatographed on silica gel (1/1 hexanes/EtOAc) to give 8-benzhydryloxy-5-methoxy-quinoline-6,7-dicarboxylic acid dimethyl ester (0.8 g, 61% yield overall). 1H NMR (CDCl3) δ 8.85 (d, 1H), 8.45 (d, 1H), 7.45 (dd, 1H), 3.98 (s, 3H), 3.85 (s, 3H), 3.74 (s, 3H); MS: 480 (M+Na).

reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 5-methoxy-8-triisopropylsilanyloxy-quinoline-6,7-dicarboxylic acid dimethyl ester | 1.9 mmol, 0.85 g | COC(=O)C=1C(=C2C=CC=NC2=C(C1C(=O)OC)O[Si](C(C)C)(C(C)C)C(C)C)OC | C23H33NO6Si
reactant | Diphenyldiazomethane | 3.8 mmol, 0.7 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 8-benzhydryloxy-5-methoxy-quinoline-6,7-dicarboxylic acid dimethyl ester | 0.8 g, 61% yield | COC(=O)C=1C(=C2C=CC=NC2=C(C1C(=O)OC)OC(C1=CC=CC=C1)C1=CC=CC=C1)OC | C27H23NO6
